US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid
The title compound was prepared as in EXAMPLE 1, substituting 2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride (prepared as in Example 2, Part A) and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid in Part C. HPLC: RT=10.48 min. MS (ESI−): mass calcd. for C22H14Cl4N4O5S2, 620.31; m/z found, 617/619/621 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.64 (s, 1H), 8.53 (s, 2H), 8.46 (d, J=7.0, 1H), 8.29 (d, J=8.7, 1H), 7.89 (dd, J=8.8, 7.1, 1H), 7.83 (s, 1H), 7.75 (s, 1H), 7.56 (d, J=1.8, 1H), 7.49 (d, J=8.2, 1H), 7.34 (dd, J=8.2, 1.8, 1H), 5.00-4.94 (m, 1H), 3.40-3.36 (m, 1H), 3.25-3.17 (m, 1H).

reactant | 2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC(C(CC1=CC(=C(C=C1)Cl)Cl)N)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=C(C(=C2)Cl)Cl | C13H7Cl2N3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C=C(C(=C2)Cl)Cl | C22H14Cl4N4O5S2
